US08471005B2
2 M of Sodium hypochlorite in Water (750 mL) (10-14% solution) was added dropwise to a solution of 1H-Pyrrole-2-carboxylic acid ethyl ester (50.0 g, 359 mmol), 2-Methoxy-2-methylpropane (1000 mL), Aliquot 336 (12 g, 31 mmol), 7 M of Sodium hydroxide in Water (1030 mL), 8 M of Ammonium hydroxide in Water (330 mL) and Ammonium chloride (120 g, 2200 mmol). The reaction was immediately worked up upon complete addition of sodium hypochlorite. The organic layer was separated and was washed with saturated sodium thiosulfate (3×500 mL). Organic extracts (3×500 mL) were dried over magnesium sulfate, filtered and reduced to afford 53.0 grams 1-Amino-1H-pyrrole-2-carboxylic acid ethyl ester as a brown oil without further purification.

reactant | Sodium hypochlorite | 2 M | Cl[O-].[Na+]
reactant | 1H-Pyrrole-2-carboxylic acid ethyl ester | 359 mmol, 50.0 g | C(C)OC(=O)C=1NC=CC1 | C7H9NO2
reactant | Sodium hydroxide | 7 M | [OH-].[Na+]
reactant | Ammonium chloride | 2200 mmol, 120 g | [Cl-].[NH4+]
solvent | Water | 750 mL | O | H2O
solvent | Water | 1030 mL | O | H2O
solvent | Ammonium hydroxide | 8 M | [OH-].[NH4+]
solvent | Water | 330 mL | O | H2O
solvent | 2-Methoxy-2-methylpropane | 1000 mL | COC(C)(C)C | C5H12O
product | 1-Amino-1H-pyrrole-2-carboxylic acid ethyl ester | 53.0 grams | C(C)OC(=O)C=1N(C=CC1)N | C7H10N2O2
